US07259183B2
Preparation of [rac]-5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3,4-dichloro-phenyl)-2-hydroxy-ethyl]-amide
To a solution of 31 mg (0.16 mmol) of 5-chloro-1H-indole-7-carboxylic acid and 51 mg of TBTU (0.16 mmol) in 2 ml DMF, were added 0.14 ml (0.79 mmol) of N,N-diisopropyl-ethyl amine. After stirring for 5 min at rt, 81 mg (0.16 mmol) of [rac]-(4-tert-butyl-benzyl)-[2-(3,4-dichloro-phenyl)-2-hydroxy-ethyl]-amine were added. After stirring for 17 h at rt, the reaction mixture was diluted with 20 ml water and extracted with EtOAc (2×). The combined organic phases were washed with water and brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (8 g silica gel; heptane/EtOAc 2:1) to give 38 mg (44%) of a light yellow foam. MS: 528 (M).

reactant | 5-chloro-1H-indole-7-carboxylic acid | 0.16 mmol, 31 mg | ClC=1C=C2C=CNC2=C(C1)C(=O)O | C9H6ClNO2
reactant | TBTU | 0.16 mmol, 51 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropyl-ethyl amine | 0.79 mmol, 0.14 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | [rac]-(4-tert-butyl-benzyl)-[2-(3,4-dichloro-phenyl)-2-hydroxy-ethyl]-amine | 0.16 mmol, 81 mg | C(C)(C)(C)C1=CC=C(CNCC(O)C2=CC(=C(C=C2)Cl)Cl)C=C1 | C19H23Cl2NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
product | [rac]-5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3,4-dichloro-phenyl)-2-hydroxy-ethyl]-amide | 38 mg, 44% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=C(C=C3C=CNC23)Cl)CC(O)C2=CC(=C(C=C2)Cl)Cl)C=C1 | C28H27Cl3N2O2
